US09062041B2
Tert-butyl 4-[(5-bromo-4-methyl-2H-indazol-2-yl)methyl]piperidin-1-carboxylate
5 g of 5-bromo-4-methyl-1H-indazole was dissolved in 110 ml DMF and treated with 11.5 g of caesium carbonate and 7.9 g of N-Boc-4-(bromomethyl)piperidine. The mixture was stirred for 3 hrs at 60° C. and overnight at RT. The reaction mixture was next diluted with ethyl acetate, and the organic phase was washed twice with water, dried over sodium sulphate, filtered and concentrated. The residue was purified chromatographically on the Biotage SP4 via a 65i-Si column Gradient: hexane/ethyl acetate 0-100%. Yield: 3.53 g of the title compound.

reactant | 5-bromo-4-methyl-1H-indazole | 5 g | BrC=1C(=C2C=NNC2=CC1)C | C8H7BrN2
reactant | caesium carbonate | 11.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-Boc-4-(bromomethyl)piperidine | 7.9 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CBr | C11H20BrNO2
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 4-[(5-bromo-4-methyl-2H-indazol-2-yl)methyl]piperidin-1-carboxylate | BrC1=C(C2=CN(N=C2C=C1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C19H26BrN3O2
